US09238631B2
a) di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-prop-2-yn-1-yl-L-glutamate
Di-tert-butyl N-(tert-butoxycarbonyl)-L-glutamate (633 mg, 1.76 mmol) was dissolved in tetrahydrofuran (6 ml) and at −78° C., lithium bis(trimethylsilyl)amide (1M in tetrahydrofuran, 3.87 ml) were added dropwise. After 30 min, 3-bromo-1-(trimethylsilyl)-1-propyne (370 mg, 1.94 mmol) in tetrahydrofuran (2 ml) was added dropwise and the mixture was stirred at −78° C. for 3 h. The reaction was than warmed to 0° C. and 10 ml of 1 N hydrochloric acid were added. The mixture was extracted with dichloromethane, dried and concentrated in vacuo. The residue was purified by silica gel chromatography to give the intermediate TMS-protected alkyne. The intermediate was dissolved in 30 ml dichloromethane/methanol (1:1). Potassium carbonate (1 g) was added and the mixture was stirred for 1 h. Water (20 ml) was added and the mixture was extracted with dichloromethane, dried and concentrated in vacuo. The product (416 mg, 59%) was used in the following reaction without further purification.

reactant | Di-tert-butyl N-(tert-butoxycarbonyl)-L-glutamate | 1.76 mmol, 633 mg | C(C)(C)(C)OC(=O)N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C18H33NO6
reactant | lithium bis(trimethylsilyl)amide | 1M, 3.87 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-bromo-1-(trimethylsilyl)-1-propyne | 1.94 mmol, 370 mg | BrCC#C[Si](C)(C)C | C6H11BrSi
reactant | hydrochloric acid | 1 N, 10 ml | Cl | ClH
reactant | Potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | dichloromethane methanol | 30 ml | ClCCl.CO
solvent | Water | 20 ml | O | H2O
product | di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-prop-2-yn-1-yl-L-glutamate | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC#C)C(=O)OC(C)(C)C | C21H35NO6
